US03931199
A mixture of 3.4 g of isopropyl 5H-[1]benzopyrano[ 2,3-b]pyridine-7-carboxylate, 7 ml of concentrated hydrochloric acid and 17 ml of acetic acid is heated under reflux on an oil bath for 3 hours. The reaction mixture is concentrated, and a small amount of water is added to the residue. The mixture is adjusted to pH 2-3 by addition of 10% sodium hydroxide. The crystalline precipitate is filtered off and recrystallized from acetic acid to give 2.5 g of 5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylic acid melting at 285°-286°C.

reactant | isopropyl 5H-[1]benzopyrano[ 2,3-b]pyridine-7-carboxylate | 3.4 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(=O)OC(C)C | C16H15NO3
reactant | hydrochloric acid | 7 ml | Cl | ClH
solvent | acetic acid | 17 ml | C(C)(=O)O | C2H4O2
product | 5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylic acid | 2.5 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(=O)O | C13H9NO3
